US06172077B2
1-(4-Benzyloxy-3-iodophenyl)-2-trifluoromethyl-1H-imidazole
Triphenylphosphine (3.11 g, 11.88 mmol) was added to a suspension of N-(4-benzyloxy-3-iodophenyl)trifluoroacetamide (Description 15; 2.5 g, 5.94 mmol) in carbon tetrachloride (35 ml) and the mixture was heated under reflux for 24 hours. The mixture was then allowed to cool and the solvent was evaporated under reduced pressure. Hexane was then added and the mixture was heated under reflux for 1 hour. The mixture was filtered and the solvent was evaporated under reduced pressure. The residue was dissolved in THF (20 ml), aminoacetaldehyde dimethyl acetal (2.5 ml, 22.9 mmol) was added and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and acetic acid was added. The mixture was heated under reflux for 3 hours, cooled and diluted with water. The mixture was basified and extracted with ethyl acetate. The organic extract was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (75:25) to give the title compound as a pale yellow oil (900 mg, 34%). 1H NMR (360 MHz, CDCl3) δ 7.80 (1H, d, J 2.5 Hz), 7.50 (2H, m), 7.44−7.43 (3H, m), 7.30 (1H, dd, J 2.5, 8.7 Hz), 7.20 (1H, s), 7.10 (1H, s), 6.91 (1H, d, J 8.7 Hz), and 5.22 (2H, s). m/z (ES+) 445 (M+1).

reactant | Triphenylphosphine | 11.88 mmol, 3.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(4-benzyloxy-3-iodophenyl)trifluoroacetamide | 5.94 mmol, 2.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)NC(C(F)(F)F)=O)I | C15H11F3INO2
reactant | aminoacetaldehyde dimethyl acetal | 22.9 mmol, 2.5 ml | COC(CN)OC | C4H11NO2
solvent | carbon tetrachloride | 35 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-Benzyloxy-3-iodophenyl)-2-trifluoromethyl-1H-imidazole | 900 mg, 34% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1C(=NC=C1)C(F)(F)F)I | C17H12F3IN2O
